US07576215B2
N-{3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]BENZYL}-N′-(2-FLUOROPHENYL)UREA
The title compound was prepared from 4-[3-(2-Fluoro-phenyl)-ureidomethyl]phenylboronic acid and [4-chloro-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone according to the procedure of Example 1. MS (ES) m/z 541.9.

reactant | 4-[3-(2-Fluoro-phenyl)-ureidomethyl]phenylboronic acid | FC1=C(C=CC=C1)NC(NCC1=CC=C(C=C1)B(O)O)=O | C14H14BFN2O3
reactant | [4-chloro-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone | ClC1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C17H9ClF3NO
product | N-{3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]BENZYL}-N′-(2-FLUOROPHENYL)UREA | C(C1=CC=CC=C1)(=O)C=1C=NC2=C(C=CC=C2C1C=1C=C(CNC(=O)NC2=C(C=CC=C2)F)C=CC1)C(F)(F)F | C31H21F4N3O2
